US07855213B2
(E)-N-((2-Cyanophenyl)(2,6-dichloropyridin-4-yl)methylene)-2-methylpropane-2-sulfinamide (Scheme #19, B)
Titanium (IV) ethoxide (1M in tetrahydrofuran, 10.2 mL, 10.2 mmol) was added to a solution of 2-(2,6-dichloroisonicotinoyl)benzonitrile (Scheme #19, A, 1.0 g, 3.3 mmol) in tetrahydrofuran (5 mL) at room temperature. After 5 minutes 2-methyl-propanesulfinamide (0.48 g, 3.96 mmol) was added and the reaction mixture was refluxed over night. Additional amounts of titanium (IV) ethoxide (1M in tetrahydrofuran, 3.0 mL, 3.0 mmol) and 2-methyl-propanesulfinamide (0.2 g, 1.6 mmol) were added and the reaction mixture was refluxed for 5 h. After cooled to room temperature methanol (5 mL) and saturated aqueous sodium hydrogen carbonate (0.1 mL) added to the reaction mixture. A precipitation occurred and the crude was filtered through a pad of sodium sulfate before evaporation. Purification by flash chromatography using a stepwise gradient of ethylacetate in heptane afforded the title compound in 44% yield. 1H NMR (CDCl3) δ 7.85-7.78 (m, 1 H), 7.78-7.70 (m, 1 H), 7.68-7.61 (m, 1 H), 7.44-7.35 (m, 1 H), 7.32 (s, 2 H), 1.38 (s, 9 H). MS (API) m/z 380 [M+1]+.

reactant | 2-(2,6-dichloroisonicotinoyl)benzonitrile | ClC=1C=C(C(=O)C2=C(C#N)C=CC=C2)C=C(N1)Cl | C13H6Cl2N2O
reactant | 2-methyl-propanesulfinamide | 3.96 mmol, 0.48 g | CC(CS(=O)N)C | C4H11NOS
reactant | 2-methyl-propanesulfinamide | 1.6 mmol, 0.2 g | CC(CS(=O)N)C | C4H11NOS
reactant | methanol | 5 mL | CO | CH4O
reactant | sodium hydrogen carbonate | 0.1 mL | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Titanium (IV) ethoxide | 10.2 mmol, 1M, 10.2 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
catalyst | titanium (IV) ethoxide | 3.0 mmol, 1M, 3.0 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (E)-N-((2-Cyanophenyl)(2,6-dichloropyridin-4-yl)methylene)-2-methylpropane-2-sulfinamide | 44% yield | C(#N)C1=C(C=CC=C1)\C(=N\S(=O)C(C)(C)C)\C1=CC(=NC(=C1)Cl)Cl | C17H15Cl2N3OS
